US05294612
A solution of 3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]-pyrimidin-4-one (2.3 g, 0.01 mol), DMF (50 ml) and 2,3-dihydrofuran (14.0 g, 0.20 mol) was stirred at 0° C. for 10 minutes and BF3. Et2O (1.5 ml, 0.012 mol) was added dropwise. The reaction mixture was warmed to room temperature and stirred for 108 hours. The reaction was quenched with concentrated ammonium hydroxide until pH of 7.5 and the resulting precipitate was collected by filtration. The solid residue was taken up in isopropanol (200 ml), heated to reflux and filtered to remove insoluble material. Concentration of the filtrate to 75 ml and cooling caused precipitation of the product. The product was collected by filtration and washed with ether to afford 1.1 g (37%) of 1-(2-tetrahydrofuranyl)-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one as a white powder, m.p. 268°-9° C. when dried at 70° C. in high vacuum.

reactant | 3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]-pyrimidin-4-one | 0.01 mol, 2.3 g | CC=1N=NC2=NC(=NC(C21)=O)C2=CC=NC=C2 | C11H7N5O
reactant | 2,3-dihydrofuran | 0.20 mol, 14.0 g | O1CCC=C1 | C4H6O
reactant | BF3 | B(F)(F)F | BF3
reactant | Et2O | 0.012 mol, 1.5 ml | CCOCC | C4H10O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-(2-tetrahydrofuranyl)-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one | 1.1 g, 37% | O1C(CCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC=NC=C2)C | C15H15N5O2
